US06743924B2
1-[4-[4-[[2-[(E)-2-[4-(Trifluoromethyl)phenyl]ethenyl]-1,3-oxazol-4-yl]methoxy]phenyl]butyl]-1H-1,2,3-triazole(1.5 g) was dissolved in tetrahydrofuran (75 ml). Concentrated hydrochloric acid (0.3 ml) was added dropwise. The crystals were precipitated. The mixture was stirred at room temperature for 40 min and filtrated. The mixture was washed with ethyl acetate (3 ml) and dried under reduced pressure (40° C.) to give 1-[4-[4-[[2-[(E)-2-[4-(trifluoromethyl)phenyl]ethenyl]-1,3-oxazol-4-yl]methoxy]phenyl]butyl]-1H-1,2,3-triazolehydrochloride (1.09 g, yield 67%).

reactant | 1-[4-[4-[[2-[(E)-2-[4-(Trifluoromethyl)phenyl]ethenyl]-1,3-oxazol-4-yl]methoxy]phenyl]butyl]-1H-1,2,3-triazole | 1.5 g | FC(C1=CC=C(C=C1)/C=C/C=1OC=C(N1)COC1=CC=C(C=C1)CCCCN1N=NC=C1)(F)F | C25H23F3N4O2
reactant | hydrochloric acid | 0.3 ml | Cl | ClH
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
product | 1-[4-[4-[[2-[(E)-2-[4-(trifluoromethyl)phenyl]ethenyl]-1,3-oxazol-4-yl]methoxy]phenyl]butyl]-1H-1,2,3-triazolehydrochloride | 1.09 g, yield 67% | Cl.FC(C1=CC=C(C=C1)/C=C/C=1OC=C(N1)COC1=CC=C(C=C1)CCCCN1N=NC=C1)(F)F | InChI=1S/C25H23F3N4O2.ClH/c26-25(27,28)21-9-4-20(5-10-21)8-13-24-30-22(18-34-24)17-33-23-11-6-19(7-12-23)3-1-2-15-32-16-14-29-31-32;/h4-14,16,18H,1-3,15,17H2;1H/b13-8+;
